US07632857B2
(4-Benzo[1,3]dioxol-5-yl-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
The title compound is prepared in a manner substantially analogous to Procedure SS starting from 3,4-Methylenedioxybenzene boronic acid and (4-bromo-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone. MS (ES+) 379.4

reactant | 3,4-Methylenedioxybenzene boronic acid | C1OC=2C=C(C=CC2O1)B(O)O | C7H7BO4
reactant | (4-bromo-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | BrC1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C16H21BrN2O
product | (4-Benzo[1,3]dioxol-5-yl-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | O1COC2=C1C=CC(=C2)C2=CC=C(C=C2)C(=O)N2[C@@H](CCC2)CN2CCCC2 | C23H26N2O3
